US05864039
To a solution of 2-benzyloxyethanol (11.7 g) and pyridine (6.08 g) in dichloromethane (50 ml) was added thionyl chloride (6.7 ml) under ice-cooling, and the resulting mixture was stirred at refluxing temperature for 2.5 hr. Ice-water was added to the reaction mixture, and the organic layer was washed with water and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform) to give 10.3 g of 2-benzyloxyethyl chloride.

reactant | 2-benzyloxyethanol | 11.7 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | pyridine | 6.08 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 6.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-benzyloxyethyl chloride | 10.3 g | C(C1=CC=CC=C1)OCCCl | C9H11ClO
